* Z:\mnt\design.r\spice\examples\2904.asc
XU1 0 N005 N003 N001 N002 N002 N002 N002 LTC2904
V1 N002 0 PWL(0 0 1m 5)
V2 N001 0 PWL(0 0 1m 3.3)
R1 N004 N005 100K
V3 N004 0 5
R2 N004 N003 100K
.tran 230m
.lib LTC2904.sub
.backanno
.end
